US04061761
c. 3-Ethyl-2-ethylimino-4-(4-bromo-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
4.6 g of 4'-bromo-3'-sulfamoyl-2-chloroacetophenone and 1.8 g of ground 1,3-diethylthiourea were reacted and worked up according to the prescription given in Example 12. Colorless solid body, decomposition beginning at 103° C, C=N 1615 cm-1.

reactant | 4'-bromo-3'-sulfamoyl-2-chloroacetophenone | 4.6 g | BrC1=C(C=C(C=C1)C(CCl)=O)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1,3-diethylthiourea | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(4-bromo-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Br)S(N)(=O)=O)=NCC | InChI=1S/C13H18BrN3O3S2.ClH/c1-3-16-12-17(4-2)13(18,8-21-12)9-5-6-10(14)11(7-9)22(15,19)20;/h5-7,18H,3-4,8H2,1-2H3,(H2,15,19,20);1H
